US07405305B2
3-[4-(Benzhydrylideneamino)benzofur-7-yl]-1-methyl-4-(1-methyl-1H-indol-3-yl)pyrrole-2,5-dione
Heat a mixture of 7-[1-methyl-4-(1-methylindol-3-yl)-2,5-dioxo-3-pyrrolin-3-yl]benzo[b]fur-4-yl (trifluoromethyl)sulfonate (100 mg, 0.2 mmol), benzophenone imine (0.037 ml, 0.22 mmol), tris-(benzylideneacetone)-dipalladium(0)(9 mg, 0.01 mmol), racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (19 mg, 0.03 mmol), and cesium carbonate (91 mg, 0.28 mmol) in anhydrous toluene (1 ml) to 80° C. for 19 hours under a nitrogen atmosphere. Allow the reaction to cool to room temperature, dilute with diethyl ether, and filter through Celite. Wash the filtrate with water, brine, dry over magnesium sulfate, filter and concentrate. Flash chromatography over silica gel (ethyl acetate: hexanes) affords the title compound as a red oil. MS(ES+): 536.1.

reactant | 7-[1-methyl-4-(1-methylindol-3-yl)-2,5-dioxo-3-pyrrolin-3-yl]benzo[b]fur-4-yl (trifluoromethyl)sulfonate | 0.2 mmol, 100 mg | FC(F)(F)S(=O)(=O)OC1=CC=C(C=2OC=CC21)C=2C(N(C(C2C2=CN(C1=CC=CC=C21)C)=O)C)=O | C23H15F3N2O6S
reactant | benzophenone imine | 0.22 mmol, 0.037 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.03 mmol, 19 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 0.28 mmol, 91 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[4-(Benzhydrylideneamino)benzofur-7-yl]-1-methyl-4-(1-methyl-1H-indol-3-yl)pyrrole-2,5-dione | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=CC=C(C2=C1C=CO2)C=2C(N(C(C2C2=CN(C1=CC=CC=C21)C)=O)C)=O | C35H25N3O3
